US04880492
12 g (89 mmol) of dimethylgallium chloride are made ready for use in 300 ml of pentane and cooled to -78°. 8.3 g (89 mmol) of dimethylaminopropyllithium are added thereto as a solid. The solution is allowed to come to room temperature and is stirred for a further 24 hours. The lithium chloride precipitated is separated off, the solvent is removed and the residue is distilled in vacuo. Dimethylaminopropyl(dimethyl)gallium is obtained as a white solid with a B.p. of 65°/10 mbar.

reactant | dimethylgallium chloride | 89 mmol, 12 g | [Cl-].C[Ga+]C
reactant | dimethylaminopropyllithium | 89 mmol, 8.3 g | CN(C)CCC[Li]
solvent | pentane | 300 ml | CCCCC | C5H12
product | Dimethylaminopropyl(dimethyl)gallium | CN(C)CCC[Ga](C)C | InChI=1S/C5H12N.2CH3.Ga/c1-4-5-6(2)3;;;/h1,4-5H2,2-3H3;2*1H3;
